US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid
3-Acetyl-1H-pyrazole-5-carboxylic acid (69.3 mg, 450 μmol) and HCTU (186 mg, 450 μmol) were combined in DMF (1.9 mL, 24.5 mmol), and stirred at room temperature. After 15 minutes, DIPEA (214 μL, 1.2 mmol) and (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (150 mg, 0.4 mmol) were added. The mixture was stirred for 30 minutes at room temperature, then evaporated under reduced pressure. The residue was dissolved in EtOH (1.4 mL, 24.5 mmol). A solution of 1.0 M LiOH in water (2.0 mL, 2.0 mmol) was added, and the resulting mixture was stirred at 40° C. for 3 hours. The solvent was removed under pressure and the residue was purified by preparative HPLC to yield the title compound (110 mg, purity 100%) as a TFA salt. MS m/z [M+H]+ calc'd for C22H20ClFN4O5, 475.11. found 475.1.

reactant | 3-Acetyl-1H-pyrazole-5-carboxylic acid | 450 μmol, 69.3 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HCTU | 450 μmol, 186 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 24.5 mmol, 1.9 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 1.2 mmol, 214 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 0.4 mmol, 150 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | EtOH | 24.5 mmol, 1.4 mL | CCO | C2H6O
reactant | LiOH | 1.0 M | [Li+].[OH-]
reactant | water | 2.0 mmol, 2.0 mL | O | H2O
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid | 110 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
